US04107175
N-(5-Chloro-1,3-benzodithiol-2-ylidene)-1-piperidineethanamine
A solution of 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide (8.39g), N-(2-aminoethyl)piperidine (2.56g) and anhydrous sodium carbonate (1.06g) in 200 ml of anhydrous dimethylformamide is heated at 120° C under a nitrogen atmosphere for three hours. The reaction mixture is poured into 1000 ml of water and extracted with three 300 ml portions of dichloromethane. The combined organic extracts are washed with two 500 ml portions of water, dried over anhydrous sodium sulfate, and concentrated in vacuo to yield an oil. This oil is chromatographed on silica gel (1000 ml) eluting with (1) pentane (1000 ml), (2) chloroform (1000 ml), and finally methanol/chloroform (1:4, 2000 ml). The solid product from elution (3) is recrystallized from pentane to yield 4g of the title compound, melting point 42-44° C.

reactant | 5-chloro-N-methyl-N-phenyl-1,3-benzodithiol-2-iminium iodide | 8.39g | [I-].ClC1=CC2=C(SC(S2)=[N+](C2=CC=CC=C2)C)C=C1
reactant | N-(2-aminoethyl)piperidine | 2.56g | NCCN1CCCCC1 | C7H16N2
reactant | sodium carbonate | 1.06g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 1000 ml | O | H2O
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | N-(5-Chloro-1,3-benzodithiol-2-ylidene)-1-piperidineethanamine | ClC1=CC2=C(SC(S2)=NCCN2CCCCC2)C=C1 | C14H17ClN2S2
